US05596087
Crude 3',5'-di-O-acetylthymidine was dissolved in 20 ml methanol, and 0.075 gm sodium was added. After 8 hrs the reaction was quenched with Amberlite IR 120 resin, filtered and concentrated to yield beta-thymidine (2.4 gm, 80%). m.p. 181°-183° C.

reactant | 3',5'-di-O-acetylthymidine | C(C)(=O)O[C@H]1C[C@@H](O[C@@H]1COC(C)=O)N1C(=O)NC(=O)C(C)=C1 | C14H18N2O7
reactant | sodium | 0.075 gm | [Na] | Na
solvent | methanol | 20 ml | CO | CH4O
product | beta-thymidine | 2.4 gm, 80% | CC1=CN(C(=O)NC1=O)[C@H]2C[C@@H]([C@H](O2)CO)O | C10H14N2O5
